US03984465
2',3'-Dichloro-4'-methylthio-2-cyclopentylacetophenone is prepared following substantially the same procedure described in Example 10, Step A, using the following substances: 2,3-dichlorothioanisole (63.1 g., 0.327 mole), methylene chloride (300 ml.), cyclopentylacetyl chloride (52.7 g., 0.367 mole) and aluminum chloride (48.0 g., 0.36 mole).

reactant | 2,3-dichlorothioanisole | 0.327 mole, 63.1 g | ClC1=C(C=CC=C1Cl)SC | C7H6Cl2S
reactant | cyclopentylacetyl chloride | 0.367 mole, 52.7 g | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | aluminum chloride | 0.36 mole, 48.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2',3'-Dichloro-4'-methylthio-2-cyclopentylacetophenone | ClC1=C(C=CC(=C1Cl)SC)C(CC1CCCC1)=O | C14H16Cl2OS
